US08431607B2
(4S,5S)-3-(4-(4-chlorophenoxy)phenyl)-5-(aminomethyl)-4-phenyl-oxazolidin-2-one
To (4S,5R)-3-(4-(4-chlorophenoxy)phenyl)-5-(hydroxymethyl)-4-phenyloxazolidin-2-one (44 mg, 0.11 mmol) and triethylamine (0.046 mL, 0.33 mmol) in dichloromethane (1.5 mL) at 0° C. was added mesyl chloride (0.012 mL, 0.15 mmol). The reaction mixture was stirred at this temperature for 20 min until reaction complete as judged by TLC, and then was quenched with NaHCO3 aqueous solution. The aqueous layer was extracted (2× dichloromethane) and the organics combined, dried (MgSO4), and concentrated. The oil was taken up in 2 mL DMF and treated with NaN3 (14 mg, 0.2 mmol) at 70° C. for 5 h (monitored by analytical LC/MS). The reaction was cooled to room temperature, and then quenched with water. Ethyl acetate was added and the organic was washed with brine, dried (MgSO4), and concentrated. The oil was re-dissolved in THF/water (10:1, 1 mL) and treated with triphenylphosphine (34 mg, 0.12 mmol). The reaction was stirred at room temperature overnight and then concentrated. Flash chromatography (0-5% MeOH/dichloromethane) gave 35 mg (80%, 3 steps) of a the title compound as colorless oil that crystallized on standing. 1H NMR (acetone-d6) δ (ppm) 7.49-7.53 (m, 2H), 7.30-7.46 (m, 7H), 6.92-6.97 (m, 4H), 5.48 (d, 1H, J=4.8 Hz), 4.55 (dd, 1H, J=9.5, 4.7 Hz), 3.64 (dd, 2H, J=4.9, 1.6 Hz). HPLC-MS calculated C22H19ClN2O3 (M+H+): 395.1, found: 395.1.

reactant | (4S,5R)-3-(4-(4-chlorophenoxy)phenyl)-5-(hydroxymethyl)-4-phenyloxazolidin-2-one | 0.11 mmol, 44 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(O[C@H]([C@@H]2C2=CC=CC=C2)CO)=O)C=C1 | C22H18ClNO4
reactant | triethylamine | 0.33 mmol, 0.046 mL | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.15 mmol, 0.012 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | NaN3 | 0.2 mmol, 14 mg | [N-]=[N+]=[N-].[Na+]
reactant | triphenylphosphine | 0.12 mmol, 34 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | (4S,5S)-3-(4-(4-chlorophenoxy)phenyl)-5-(aminomethyl)-4-phenyl-oxazolidin-2-one | ClC1=CC=C(OC2=CC=C(C=C2)N2C(O[C@H]([C@@H]2C2=CC=CC=C2)CN)=O)C=C1 | C22H19ClN2O3
